US07544697B2
To a solution of N-[2-(5-ethyl-1-butyl-3-cyano-1H-pyrazol-4-yl)phenyl]-2,2-dimethylpropanamide (0.45 g, 1.28 mmol) in ethanol (8 mL) was added sodium ethoxide in ethanol (21 wt % solution in ethanol, 1.03 g, 3.19 mmol). The solution was heated at reflux overnight, then was allowed to cool to ambient temperature. The solvent was removed under reduced pressure and the residue was triturated with water. A precipitate formed that was isolated by filtration and washed with water, then was purified by chromatography on a HORIZON HPFC system (silica gel, gradient elution with 0-35% CMA in chloroform) to yield 0.14 g of 1-ethyl-2-butyl-2H-pyrazolo[3,4-c]quinolin-4-amine as a white crystalline solid, mp 215-216° C.

reactant | N-[2-(5-ethyl-1-butyl-3-cyano-1H-pyrazol-4-yl)phenyl]-2,2-dimethylpropanamide | 1.28 mmol, 0.45 g | C(C)C1=C(C(=NN1CCCC)C#N)C1=C(C=CC=C1)NC(C(C)(C)C)=O | C21H28N4O
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | ethanol | 8 mL | C(C)O | C2H6O
solvent | ethanol | 3.19 mmol, 1.03 g | C(C)O | C2H6O
product | 1-ethyl-2-butyl-2H-pyrazolo[3,4-c]quinolin-4-amine | 0.14 g | C(C)C=1N(N=C2C(=NC=3C=CC=CC3C21)N)CCCC | C16H20N4
